US05200412
N-tert-Butoxycarbonyl-L-phenylalanine morpholinoamide was prepared following the procedure of Example 25 Step (a) starting from N-tert-butoxycarbonyl-L-phenylalanine p-nitrophenyl ester and morpholine.

reactant | N-tert-butoxycarbonyl-L-phenylalanine p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C20H22N2O6
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-tert-Butoxycarbonyl-L-phenylalanine morpholinoamide | N1(CCOCC1)C(=O)N.C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | InChI=1S/C14H19NO4.C5H10N2O2/c1-14(2,3)19-13(18)15-11(12(16)17)9-10-7-5-4-6-8-10;6-5(8)7-1-3-9-4-2-7/h4-8,11H,9H2,1-3H3,(H,15,18)(H,16,17);1-4H2,(H2,6,8)/t11-;/m0./s1
